US08563746B2
Step B 2-(6-chloro-5-(2′-hydroxybiphenyl-4-yl)-1H-benzo[d]imidazol-2-ylthio)acetic acid
A solution of tert-butyl 2-(6-chloro-5-(2′-hydroxybiphenyl-4-yl)-1H-benzo[d]imidazol-2-ylthio)acetate in TFA (0.9 mL) and water (0.1 mL) was stirred at room temperature for 2 h and concentrated. The resultant solid was purified with HPLC to afford the desired product. LCMS: calculated for C21H15ClN2O3S 410.05, observed m/e 411.0 (M+H)+.

reactant | tert-butyl 2-(6-chloro-5-(2′-hydroxybiphenyl-4-yl)-1H-benzo[d]imidazol-2-ylthio)acetate | ClC=1C(=CC2=C(NC(=N2)SCC(=O)OC(C)(C)C)C1)C1=CC=C(C=C1)C1=C(C=CC=C1)O | C25H23ClN2O3S
solvent | TFA | 0.9 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 0.1 mL | O | H2O
product | 2-(6-chloro-5-(2′-hydroxybiphenyl-4-yl)-1H-benzo[d]imidazol-2-ylthio)acetic acid | ClC=1C(=CC2=C(NC(=N2)SCC(=O)O)C1)C1=CC=C(C=C1)C1=C(C=CC=C1)O | C21H15ClN2O3S
